US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(1-methylethenyl)benzonitrile (0.067 g, 0.212 mmol) dissolved in ethanol (10 mL) was treated with platinum(IV) oxide (0.050 g, 0.220 mmol) under hydrogen (1 atm) at 25° C. for 4 h. LC-MS indicates ˜90% conversion but multiple impurities are present. The reaction mixture was filtered through Celite and concentrated to give crude 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(1-methylethyl)benzonitrile as an amber oil which was used without further purification.

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(1-methylethenyl)benzonitrile | 0.212 mmol, 0.067 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(=C)C)F | C17H14ClFN2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 0.220 mmol, 0.050 g | [Pt](=O)=O
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(1-methylethyl)benzonitrile | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(C)C)F | C17H16ClFN2O
